US07084170B2
5-(Methoxycarbonyl)thiophene-2-sulfonamide
A mixture of 5-bromothiophene-2-sulfonamide (0.50 g, 2.1 mmol), triethyl amine (1 mL), methanol (1 mL), palladium acetate (0.046 g, 2.1 mmol) and 1,3-bis(diphenylphosphino) propane (0.085 g, 2.1 mmol) (addition in that order) in dimethylformamide (5 mL, anhydrous) is saturated with carbon monoxide gas, at room temperature. This reaction mixture is heated to 100° C. and stirred overnight, under a carbon monoxide atmosphere. 10 mL of brine and 10 mL of ethyl acetate are added to the reaction mixture. The organic phase is separated and the aqueous layer is extracted with 10 mL ethyl acetate. The combined organic layers are dried over sodium sulfate, concentrated in vacuo, and then chromatographed on silica (0–1% methyl alcohol in methylene chloride) to give the title compound, as a yellow solid (0.15 g, 34% yield).

reactant | 5-bromothiophene-2-sulfonamide | 2.1 mmol, 0.50 g | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
reactant | triethyl amine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | 1,3-bis(diphenylphosphino) propane | 2.1 mmol, 0.085 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | carbon monoxide | [C]=O | CO
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | brine | 10 mL | [Cl-].[Na+].O
catalyst | palladium acetate | 2.1 mmol, 0.046 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | methanol | 1 mL | CO | CH4O
product | 5-(Methoxycarbonyl)thiophene-2-sulfonamide | COC(=O)C1=CC=C(S1)S(=O)(=O)N | C6H7NO4S2
